US09403797B2
To a solution of 2-chloro-4-methoxypyridine (0.5 g, 3.48 mmol) in sulfuric acid (2.5 mL) was added N-iodosuccinimide (0.825 g, 3.48 mmol) portionwise at room temperature. The mixture was stirred at 55° C. for 2 hours. The reaction mixture was poured into ice water (10 mL) and 8 M NaOH (20 mL) was added slowly, after which the dark brown solution turned pale yellow. The aqueous layer was extracted with CH2Cl2 (2×20 mL). The organic layers were washed with brine (10 mL) and concentrated in vacuo onto silica gel. Dry flash chromatography, eluting with 25% EtOAc:c-Hex, gave 2-chloro-5-iodo-4-methoxypyridine as a white crystalline solid (0.169 g, 0.760 mmol, 22% yield).

reactant | 2-chloro-4-methoxypyridine | 3.48 mmol, 0.5 g | ClC1=NC=CC(=C1)OC | C6H6ClNO
reactant | N-iodosuccinimide | 3.48 mmol, 0.825 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | NaOH | 8 M, 20 mL | [OH-].[Na+]
solvent | sulfuric acid | 2.5 mL | S(O)(O)(=O)=O | H2O4S
product | 2-chloro-5-iodo-4-methoxypyridine | 0.760 mmol, 0.169 g, 22% yield | ClC1=NC=C(C(=C1)OC)I | C6H5ClINO
